US09388189B2
(S)—N-(5-(4-Amino-6-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidin-5-yl)-2-methoxypyridin-3-yl)-4-hydroxy-3-methylbenzenesulfonamide
(S)-2-(1-((6-Amino-5-bromopyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (63 mg, 0.14 mmol) was treated with 4-hydroxy-N-(2-methoxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-3-yl)-3-methylbenzenesulfonamide (90 mg, 0.21 mmol), 2M cesium carbonate (430 μl, 0.86 mmol) and 1,1′-bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane complex (12 mg, 0.01 mmol) according to the method described in Example 3 to give 48 mg (51% yield) of the title compound. Purity 100%.

reactant | (S)-2-(1-((6-Amino-5-bromopyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.14 mmol, 63 mg | NC1=C(C(=NC=N1)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C)Br | C19H18BrN7O
reactant | 4-hydroxy-N-(2-methoxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-3-yl)-3-methylbenzenesulfonamide | 0.21 mmol, 90 mg | OC1=C(C=C(C=C1)S(=O)(=O)NC=1C(=NC=C(C1)B1OC(C(O1)(C)C)(C)C)OC)C | C19H25BN2O6S
reactant | cesium carbonate | 0.86 mmol, 2M, 430 μl | C([O-])([O-])=O.[Cs+].[Cs+]
product | (S)—N-(5-(4-Amino-6-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidin-5-yl)-2-methoxypyridin-3-yl)-4-hydroxy-3-methylbenzenesulfonamide | 48 mg, 51% yield | NC1=NC=NC(=C1C=1C=C(C(=NC1)OC)NS(=O)(=O)C1=CC(=C(C=C1)O)C)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C | C32H31N9O5S
